US07199147B2
To a solution of the 1H-indazole-5-carboxylic acid (281 mg, 1.73 mmol) obtained in Reference Example 1 in N,N-dimethylformamide (10 ml) were added 1-benzyl-N-methylpiperidin-4-amine (390 mg, 1.91 mmol), triethylamine (0.29 ml, 2.08 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide monohydrochloride (499 mg, 2.60 mmol) and hydroxybenzotriazole (281 mg, 2.08 mmol), and the resulting mixture was stirred overnight at room temperature. An aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with chloroform, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/ethyl acetate→chloroform/methanol) to obtain N-(1-benzylpiperidin-4-yl)-N-methyl-1H-indazole-5-carboxamide (502 mg, 83%).

reactant | 1H-indazole-5-carboxylic acid | 1.73 mmol, 281 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-benzyl-N-methylpiperidin-4-amine | 1.91 mmol, 390 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | triethylamine | 2.08 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide monohydrochloride | 2.60 mmol, 499 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 2.08 mmol, 281 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(1-benzylpiperidin-4-yl)-N-methyl-1H-indazole-5-carboxamide | 502 mg, 83% | C(C1=CC=CC=C1)N1CCC(CC1)N(C(=O)C=1C=C2C=NNC2=CC1)C | C21H24N4O
